US07662974B2
13 mL of THF was added to 1.3 g (2.13 mmol) of ethyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate, and 0.645 g (17.1 mmol, 8 eq) of sodium borohydride was added. 0.95 g (8.53 mmol, 4 eq) of calcium chloride was added at 2° C. 13 mL of ethanol was added dropwise at 2° C. over 15 minutes. The mixture was stirred at 3˜4° C. for 30 minutes, and at 40˜43° C. for 4 hours. 56 mL of water was added dropwise. 17.1 mL of 1N hydrochloric acid was added dropwise, followed by dilution with 40 mL of ethyl acetate. Then, the layers were separated. The aqueous layer was re-extracted with 20 mL of ethyl acetate. The organic layers were combined, and washed with 20 mL of an aqueous saturated sodium chloride solution two times. After concentration under reduced pressure, IPE was added to the concentration residue, crystals were loosened, filtered and washed with IPE. Vacuum drying (50° C.) to a constant weight afforded 1.08 g of 6-[(1S)-1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide (yield 89%, enantiomer excess 92.0% ee).

reactant | ethyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate | 2.13 mmol, 1.3 g | O[C@](CC(=O)OCC)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)C(=O)NC | C39H35N3O4
reactant | sodium borohydride | 17.1 mmol, 0.645 g, 8 eq | [BH4-].[Na+]
reactant | calcium chloride | 8.53 mmol, 0.95 g, 4 eq | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | 1N, 17.1 mL | Cl | ClH
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 56 mL | O | H2O
solvent | ethanol | 13 mL | C(C)O | C2H6O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 6-[(1S)-1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide | 1.08 g, yield 89% | O[C@](CCO)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C37H33N3O3
